Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][H:3].[O:4]=[C:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.0905442074
[C:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([O:3][C:4]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:5],4.89343524261
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10],5.16371994354
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]#[C:4][O:5][C:6]([H:7])([H:8])[H:9].[H:3],2.36441941252
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],1.39147432513
[H:1][C:2]#[C:3][O:4][C:5][O:6][C:7]([H:8])[H:9]>>[C:2]#[C:3][O:4][C:5][O:6][C:7]([H:8])[H:9].[H:1],6.19414687133
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:9]([H:10])([H:11])([C:12]([H:13])[H:14])[H:18].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]=[C:15]([H:16])[H:17],1.16243863278
[H:1][C:2]1[O:3][C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[O:10]1>>[H:1][C:2]([O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9])=[O:10],-0.894547602271
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7](=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],1.81637714435
[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7])[C:9]([H:10])([H:11])[H:12],4.67067439905
[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[H:8])[O:9][H:10]>>[C:4][C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3][O:9][H:10],4.26694917114
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:6],3.92183323886
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2](=[C:3]([H:4])[H:5])=[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[O:1],3.95451012578
[C:1]#[C:2][O:3][C:4]([H:5])[C:6](=[O:7])[H:8]>>[C:1]=[C:2]1[O:3][C@:4]1([H:5])[C:6](=[O:7])[H:8],-0.703894326782
[H:11].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-1.99510961602
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:7].[O:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:8]/[C:9]([H:10])([H:11])[H:12],1.6528967492299995
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][H:9],7.36818398865
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],3.92905129705
[C:1]#[C:2][C:3]([H:4])([H:5])[C:7]#[C:9][H:10].[C:6][H:8]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])=[C:9][H:10],-2.80515769387
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9].[O:10][H:11],2.71581501042
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])=[C:7]=[C:12]([H:13])[H:14])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]1[C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14],-0.21196050000100006
[H:1][O:2][C:3][C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2]=[C:3][C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],1.76443568473
[H:1][O:2][C:3]([H:4])[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]#[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:4],2.52567346133
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7].[O:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][C:9]([H:10])[H:11],-2.01650782963
[H:3].[O:1][C:2]#[C:4][C:5]([H:6])([H:7])[H:8]>>[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[H:8],-1.7284299376
[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:3].[O:1]=[C:2]=[C:4]([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],4.0815706398800025
[O:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[O:1][O:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9],0.615647973251
[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[O:7]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-2.93746992695
[C:1]#[C:2].[C:3]#[C:4]>>[C:1][C:2]#[C:3][C:4],-6.05222863351
[H:1][C:2].[O:3]=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10],-1.97595847323
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[H:7],4.65614551985
